US09034655B2
Synthesis of 5-(5-carboxypentyl)-8,10,10-trimethyl-4,6-dioxo-5,6,8,9,10,11-hexahydro-4H-isoquino[5,4-fg]quinazolin-10-ium chloride (4a)
To a solution of 90 mg (0.25 mmol) of 6-(5-dimethylamino-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinolin-2-yl)hexanoic acid in 0.4 mL of DMF 0.09 ml of POCl3 were added dropwise at 40° C. The mixture was heated under stirring at 80° C. for 1.5 h, cooled to RT and poured into ice water. The product was precipitated with isopropyl alcohol and purified by column chromatography on reverse phase (PR-18, H2O-acetonitrile 5:1, v/v). Yield: 45 mg (40%) 4a. M.p. 186-188° C. 1H-NMR (200 MHz, DMSO-d6, δ, ppm): 8.39-7.82 (5H, arom), 5.17 s (2H, CH2), 4.85 s (2H, CH2), 4.04 t (2H, α-CH2, J 7.3 Hz), 3.65 s (3H, NCH3), 3.19 s (6H, +N(CH3)2), 1.94 t (2H, ε-CH2, J 7.3 Hz), 1.54 m (4H, β,γ-CH2 J 7.3 Hz), 1.26 m (2H, δ-CH2, J 7.3 Hz).

reactant | 6-(5-dimethylamino-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinolin-2-yl)hexanoic acid | 0.25 mmol, 90 mg | CN(C=1C=C2C3=C(C(N(C(C3=CC=C2)=O)CCCCCC(=O)O)=O)C1)C | C20H22N2O4
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | 5-(5-carboxypentyl)-8,10,10-trimethyl-4,6-dioxo-5,6,8,9,10,11-hexahydro-4H-isoquino[5,4-fg]quinazolin-10-ium chloride | [Cl-].C(=O)(O)CCCCCN1C(C2=CC=CC=3C=4C[N+](CN(C4C=C(C32)C1=O)C)(C)C)=O | InChI=1S/C23H27N3O4.ClH/c1-24-14-26(2,3)13-18-15-8-7-9-16-21(15)17(12-19(18)24)23(30)25(22(16)29)11-6-4-5-10-20(27)28;/h7-9,12H,4-6,10-11,13-14H2,1-3H3;1H
